US07470679B2
3-(tert-butoxycarbonyl)-2-methyl-6-((2-oxo-2,5-dihydrofuran-3-yl)methyl)benzyl acetate
Acetic acid 3-tert-butoxycarbonylamino-6-iodo-2-methyl-benzyl ester (575 mg, 1.4 mmol) was dissolved in N,N-dimethylformamide (2.5 mL). α-Methylene-γ-butyrolactone (190 μL, 2.2 mmol) was added to the mixture followed by potassium acetate (420 mg, 4.3 mmol), and then palladium(II) acetate (16 mg, 0.07 mmol). Reaction mixture was heated at 80° C. for 26 hours. Mixture was cooled to room temperature and partitioned between ethyl acetate and aqueous sodium bicarbonate. Layers were separated. Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as off-white solid in 54% yield. MS m/e (M−H)−=374.

reactant | Acetic acid 3-tert-butoxycarbonylamino-6-iodo-2-methyl-benzyl ester | 1.4 mmol, 575 mg | C(C)(C)(C)OC(=O)NC=1C(=C(COC(C)=O)C(=CC1)I)C | C15H20INO4
reactant | α-Methylene-γ-butyrolactone | 2.2 mmol, 190 μL | C=C1C(=O)OCC1 | C5H6O2
reactant | potassium acetate | 4.3 mmol, 420 mg | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(tert-butoxycarbonyl)-2-methyl-6-((2-oxo-2,5-dihydrofuran-3-yl)methyl)benzyl acetate | 54% yield | C(C)(=O)OCC1=C(C(=CC=C1CC=1C(OCC1)=O)C(=O)OC(C)(C)C)C | C20H24O6
